************************************************************************
* auCdl Netlist:
* 
* Library Name:  gsclib045
* Top Cell Name: SDFFX1
* View Name:     schematic
* Netlisted on:  Jun  4 07:50:20 2012
************************************************************************

*.BIPOLAR
*.RESI = 2000 
*.EQUATION
*.SCALE METER
*.MEGA
.PARAM

*.GLOBAL VSS:G
+        VDD:P
+        ExtVDD:P
+        ExtVSS:G

*.PIN VSS
*+    VDD
*+    ExtVDD
*+    ExtVSS

************************************************************************
* Library Name: gsclib045
* Cell Name:    SDFFX1
* View Name:    schematic
************************************************************************

.SUBCKT SDFFX1 CK D Q QN SE SI VDD VSS
*.PININFO CK:I D:I SE:I SI:I VDD:I VSS:I Q:O QN:O
Mmn13 net461 SI VSS VSS g45n1svt m=1 l=45n w=145n
Mmn14 Db SE net461 VSS g45n1svt m=1 l=45n w=145n
Mmn12 Db SEb net449 VSS g45n1svt m=1 l=45n w=145n
Mmn11 net449 D VSS VSS g45n1svt m=1 l=45n w=145n
Mmn57 QN net367 VSS VSS g45n1svt m=1 l=45n w=260n
Mmn55 Q qbint VSS VSS g45n1svt m=1 l=45n w=260n
Mmn50 net436 qbint VSS VSS g45n1svt m=1 l=45n w=145n
Mmn51 n30 CKb net436 VSS g45n1svt m=1 l=45n w=145n
Mmn35 net429 mout VSS VSS g45n1svt m=1 l=45n w=145n
Mmn36 n20 CKbb net429 VSS g45n1svt m=1 l=45n w=145n
Mmn20 CKb CK VSS VSS g45n1svt m=1 l=45n w=145n
Mmn45 qbint n30 VSS VSS g45n1svt m=1 l=45n w=145n
Mmn56 net367 qbint VSS VSS g45n1svt m=1 l=45n w=145n
Mmn21 CKbb CKb VSS VSS g45n1svt m=1 l=45n w=145n
Mmn40 n30 CKbb mout VSS g45n1svt m=1 l=45n w=145n
Mmn30 mout n20 VSS VSS g45n1svt m=1 l=45n w=145n
Mmn10 SEb SE VSS VSS g45n1svt m=1 l=45n w=145n
Mmn25 n20 CKb Db VSS g45n1svt m=1 l=45n w=145n
Mmp14 Db SEb net392 VDD g45p1svt m=1 l=45n w=215n
Mmp13 net392 SI VDD VDD g45p1svt m=1 l=45n w=215n
Mmp12 Db SE net384 VDD g45p1svt m=1 l=45n w=215n
Mmp11 net384 D VDD VDD g45p1svt m=1 l=45n w=215n
Mmp51 n30 CKbb net376 VDD g45p1svt m=1 l=45n w=215n
Mmp50 net376 qbint VDD VDD g45p1svt m=1 l=45n w=215n
Mmp57 QN net367 VDD VDD g45p1svt m=1 l=45n w=390n
Mmp55 Q qbint VDD VDD g45p1svt m=1 l=45n w=390n
Mmp35 net356 mout VDD VDD g45p1svt m=1 l=45n w=215n
Mmp36 n20 CKb net356 VDD g45p1svt m=1 l=45n w=215n
Mmp20 CKb CK VDD VDD g45p1svt m=1 l=45n w=215n
Mmp45 qbint n30 VDD VDD g45p1svt m=1 l=45n w=215n
Mmp56 net367 qbint VDD VDD g45p1svt m=1 l=45n w=215n
Mmp21 CKbb CKb VDD VDD g45p1svt m=1 l=45n w=215n
Mmp40 n30 CKb mout VDD g45p1svt m=1 l=45n w=215n
Mmp30 mout n20 VDD VDD g45p1svt m=1 l=45n w=215n
Mmp25 n20 CKbb Db VDD g45p1svt m=1 l=45n w=215n
Mmp10 SEb SE VDD VDD g45p1svt m=1 l=45n w=215n
.ENDS

